US04110327
Into a mixture comprising 8 g of a diethyl ester of oxalic acid and 8 ml of ethanol was dropped at room temperature 4.4 g of N-ethyl ethylenediamine. The resulting mixture was allowed to react for 3 hours, and then heated to remove the ethanol. Subsequently, the residue was recrystallized from 10 ml of dioxane to obtain 5.4 g of 1-ethyl-2,3-dioxopiperazine, m.p. 124° C, yield 76.0%.

reactant | diethyl ester of oxalic acid | 8 g | CCOC(=O)C(=O)OCC | C6H10O4
reactant | N-ethyl ethylenediamine | 4.4 g | C(C)NCCN | C4H12N2
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | 1-ethyl-2,3-dioxopiperazine | 5.4 g, yield 76.0% | C(C)N1C(C(NCC1)=O)=O | C6H10N2O2
